US08008481B2
A vial containing a solution of 7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamine (Example #F.8.1, 0.020 g, 0.075 mmol), 3,4-dimethoxy-3-cyclobutene-1,2-dione (0.011 g, 0.077 mmol), N,N-diisopropylethylamine (14 μL, 0.080 mmol) and MeOH (1.5 mL) was shaken at ambient temperature for about 16 hours then filtered to give 3-(7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamino)-4-methoxy-cyclobut-3-ene-1,2-dione (0.022 g, 78%) as a tan solid; RP-HPLC (Table 1, Method e) Rt 1.80 min, m/z (ESI+) 375.9 (M+H)+.

reactant | 7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamine | 0.075 mmol, 0.020 g | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)N)C=CC=C2 | C15H11N3S
reactant | 3,4-dimethoxy-3-cyclobutene-1,2-dione | 0.077 mmol, 0.011 g | COC=1C(C(C1OC)=O)=O | C6H6O4
reactant | N,N-diisopropylethylamine | 0.080 mmol, 14 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeOH | 1.5 mL | CO | CH4O
product | 3-(7-benzo[b]thiophen-2-yl-1H-indazol-5-ylamino)-4-methoxy-cyclobut-3-ene-1,2-dione | 0.022 g, 78% | S1C2=C(C=C1C=1C=C(C=C3C=NNC13)NC=1C(C(C1OC)=O)=O)C=CC=C2 | C20H13N3O3S
